US07566708B2
Step 1. Preparation of (4-chloro-2-methylsulfanyl-pyrimidin-5-yl)-(2-chloropheny)-methanol.
To a solution of 4-chloro-2-(methylthio)pyrimidine (Aldrich) (20 g, 124.51 mmol) in dry THF (300 mL) at −78° C. under argon was slowly added a solution of 2.0 M lithium diisopropyl amide, i.e., LDA, (109 mL, 1.75 eq) in THF via a cannula. After addition was complete, the resulting mixture was stirred at −78° C. for an additional 15 minutes, after which 2-chlorobenzaldehyde (Aldrich) (29.5 mL, 2.1 eq) was added dropwise via syringe. The reaction mixture was stirred for an additional 30 minutes at −78° C. and then quenched with saturated ammonium chloride solution. Ethyl acetate was added, the mixture was allowed to warm to room temperature, and the layers were partitioned and separated. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were washed with brine solution. The ethyl acetate layers were combined, dried over magnesium sulfate, filtered and concentrated to give the crude product as an oil. Purification using Flash Column Chromatography on Silica Gel, eluting with a gradient of 5%-20% ethyl acetate in hexanes gave the title compound (10.8 g, (M+H)+=301) as an orange-yellow semi-solid.

reactant | 4-chloro-2-(methylthio)pyrimidine | 124.51 mmol, 20 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | lithium diisopropyl amide | 2.0 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | LDA | 109 mL, 1.75 eq | [Li+].CC(C)[N-]C(C)C
reactant | 2-chlorobenzaldehyde | 29.5 mL, 2.1 eq | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (4-chloro-2-methylsulfanyl-pyrimidin-5-yl)-(2-chloropheny)-methanol | 10.8 g | ClC1=NC(=NC=C1C(O)C1=C(C=CC=C1)Cl)SC | C12H10Cl2N2OS
